US05538976
To 20 ml of dimethyl sulfoxide was added 2.8 g of potassium tert-butoxide. After stirring at room temperature for 30 minutes, 1.9 g of 5-aminopyrimidine was added thereto, followed by stirring at room temperature for 30 minutes. To the solution was added 1.21 g of 4-fluorobenzonitrile, and the mixture was stirred at room temperature for 30 minutes and then at 50° C. for 30 minutes. The reaction mixture was poured into ice-water, neutralized with hydrochloric acid. The resulting crystals were collected by filtration and dissolved in acetone. Any insoluble matter was removed by filtration, and the solvent was removed by distillation. The resulting crystals were washed with ethyl ether to obtain 1.04 g of 5-[(4-cyanophenyl)amino]pyrimidine.

reactant | potassium tert-butoxide | 2.8 g | CC(C)([O-])C.[K+]
reactant | 5-aminopyrimidine | 1.9 g | NC=1C=NC=NC1 | C4H5N3
reactant | 4-fluorobenzonitrile | 1.21 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
product | 5-[(4-cyanophenyl)amino]pyrimidine | 1.04 g | C(#N)C1=CC=C(C=C1)NC=1C=NC=NC1 | C11H8N4
